US04267317
In a reactor, 15 g of chlorobenzene and 15 g of water were charged, and 12.7 g (0.05 mole) of 4-(4-trifluoromethylphenoxy)phenol, 15.8 g (0.055 mole) of ethyl 3,4-dibromopentanoate and 8.7 g (0.063 mole) of potassium carbonate and 0.3 g (0.001 mole) of tributylethylammonium bromide were added. They were refluxed for 6 hours to react them. The water phase was separated and the organic phase was washed with 5% hydrochloric acid and with water and then, chlorobenzene, ethyl 3,4-dibromopentanoate and low boiling by-products were distilled off at 100° C. under a reduced pressure (0.02-0.05 mmHg) to obtain 18.1 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate (nD20 1.5175). The yield was 95.1%.

reactant | chlorobenzene | 15 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.05 mole, 12.7 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | ethyl 3,4-dibromopentanoate | 0.055 mole, 15.8 g | BrC(CC(=O)OCC)C(C)Br | C7H12Br2O2
reactant | potassium carbonate | 0.063 mole, 8.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tributylethylammonium bromide | 0.001 mole, 0.3 g | [Br-].C(CCC)[N+](CC)(CCCC)CCCC
solvent | water | 15 g | O | H2O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate | 18.1 g, yield was 95.1% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)OCC)C)C=C2)C=C1)(F)F | C20H19F3O4
